US05278244
4d) 4-[N-(Trimethylsilyl)amino]styrene
4-Aminostyrene (11.8 g, 98 mmole) and hexamethyldisilazane (32 g, 200 mmole) were refluxed at 125° C. for 3 hours. Unreacted hexamethyldisilazane was removed under vacuum. The desired product distilling at 51°-54° C./ 0.18 mm was obtained in 85% yield. Its composition was confirmed by spectral analysis.

reactant | 4-Aminostyrene | 98 mmole, 11.8 g | NC1=CC=C(C=C)C=C1 | C8H9N
reactant | hexamethyldisilazane | 200 mmole, 32 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 4-[N-(Trimethylsilyl)amino]styrene | 85% yield | C[Si](NC1=CC=C(C=C)C=C1)(C)C | C11H17NSi
